US07402592B2
7-(3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene dihydrochloride (17.2 mg, 0.0629 mmol) was dissolved in methanol (10 ml), and 10% Pd/C (5 mg) was added. The mixture was hydrogenated for 3 h using a hydrogen-filled balloon. When the reaction was complete, the reaction was filtered through Celite, washed with methanol and concentrated by rotary evaporation to a light brown solid. This was dissolved in ethanol (10 ml) and treated with concentrated HCl (5 drops). The excess HCl and residual water were removed by repeated azeotropic rotary evaporation with ethanol. 7-(3-Pyridinyl)-3-azabicyclo[3.3.1] nonane dihydrochloride was isolated as a white solid (18.2 mg, 100%). GC-MS shows a 85:15 ratio of diastereomers.

reactant | 7-(3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene dihydrochloride | 0.0629 mmol, 17.2 mg | Cl.Cl.N1=CC(=CC=C1)C1=CC2CNCC(C1)C2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 7-(3-Pyridinyl)-3-azabicyclo[3.3.1] nonane dihydrochloride | Cl.Cl.N1=CC(=CC=C1)C1CC2CNCC(C1)C2 | InChI=1S/C13H18N2.2ClH/c1-2-12(9-14-3-1)13-5-10-4-11(6-13)8-15-7-10;;/h1-3,9-11,13,15H,4-8H2;2*1H
